US07534894B2
A mixture of 3′-bromo-4′-methoxy-1,1′-biphenyl-4-carbaldehyde (7.56g, 26.0 mmol), prepared in the previous step, methylamine (16.2 mL of an 8.03 M solution in ethanol; 130 mmol) and 20.0 g of anhydrous MgSO4 in 150 mL of methylene chloride was stirred under nitrogen at room temperature for 22 h. The reaction was filtered and the filtrate concentrated under reduced pressure to give N-[(E)-(3′-bromo-4′-methoxy-1,1′-biphenyl-4-yl)methylidene]-N-methylamine (7.77 g, 98%) as a brown solid, mp 115-117° C. Elemental Analysis for C15H14BrNO. Calc'd: C, 59.23; H; 4.64; N, 4.60. Found: C, 58.99; H, 4.38; N, 4.63

reactant | 3′-bromo-4′-methoxy-1,1′-biphenyl-4-carbaldehyde | 26.0 mmol, 7.56g | BrC=1C=C(C=CC1OC)C1=CC=C(C=C1)C=O | C14H11BrO2
reactant | methylamine | CN | CH5N
reactant | MgSO4 | 20.0 g | [O-]S(=O)(=O)[O-].[Mg+2]
solvent | ethanol | C(C)O | C2H6O
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
product | N-[(E)-(3′-bromo-4′-methoxy-1,1′-biphenyl-4-yl)methylidene]-N-methylamine | 7.77 g, 98% | BrC=1C=C(C=CC1OC)C1=CC=C(C=C1)\C=N\C | C15H14BrNO
